US05624937
1-[4-(2-Quinolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl]urea
2-(4-Aminophenylthio)quinoline (3.9 moles, 1.0 g) and 4-chloro-3-trifluoromethylphenylisocyanate (3.9 moles, 0.85 g) were reacted according to procedure A to yield the title compound, 0.8 g, 43%. Mass Spec (FD) 463. Calculated for C23H15ClF3N3OS: C, 58.29; H, 3.19; N, 8.87. Found: C, 58.56; H, 3.43; N, 9.02. M Pt 194°-195 ° C.

reactant | 2-(4-Aminophenylthio)quinoline | 3.9 moles, 1.0 g | NC1=CC=C(C=C1)SC1=NC2=CC=CC=C2C=C1 | C15H12N2S
reactant | 4-chloro-3-trifluoromethylphenylisocyanate | 3.9 moles, 0.85 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-[4-(2-Quinolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl]urea | N1=C(C=CC2=CC=CC=C12)SC1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C23H15ClF3N3OS
